US03933827
Preparation of 9-methoxy-5,6,11-trimethyl-6H-pyrido[4,3-b]carbazole
from 9-methoxy-5,11-dimethyl-6H-pyrido[4,3-b]carbazole and butyl iodide, there can be prepared 9-methoxy-5,11-dimethyl-6-butyl-6H-pyrido[4,3-b]carbazole

reactant | 9-methoxy-5,11-dimethyl-6H-pyrido[4,3-b]carbazole | COC1=CC=2C=3C(=C4C(=C(C3NC2C=C1)C)C=CN=C4)C | C18H16N2O
reactant | butyl iodide | C(CCC)I | C4H9I
reactant | 9-methoxy-5,11-dimethyl-6-butyl-6H-pyrido[4,3-b]carbazole | COC1=CC=2C=3C(=C4C(=C(C3N(C2C=C1)CCCC)C)C=CN=C4)C | C22H24N2O
product | 9-methoxy-5,6,11-trimethyl-6H-pyrido[4,3-b]carbazole | COC1=CC=2C=3C(=C4C(=C(C3N(C2C=C1)C)C)C=CN=C4)C | C19H18N2O
